US09238656B2
Synthesis of (1S,2S,3R,4R)-3-[6-Chloro-2-(4-dimethylamino-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound I)
(1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (77 mg, 0.26 mmol) and 4-(dimethylamino)benzaldehyde (54 mg, 0.36 mmol) were combined and heated in 8 mL nitrobenzene at 140° C. for six hours. The reaction was concentrated and purified by reverse phase chromatography on a Gilson chromatograph to afford 16 mg (14%) of the title compound. 1H NMR (d-chloroform): 13.55 (br s, 1H), 7.99 (m, 3H), 6.84 (m, 2H), 6.62 (br s, 1H), 6.36 (m, 2H), 5.45 (d, J=9 Hz, 1H), 5.37 (s, 1H), 5.21 (t, J=9 Hz, 1H), 3.19 (s, 1H), 3.11 (s, 6H), 2.92 (m, 2H), 2.35 (d, J=9 Hz, 1H), 1.76 (d, J=9 Hz, 1H). MS: 424.05 (M+H). HPLC retention time: 2.39 minutes (G Method).

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.26 mmol, 77 mg | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Cl | C13H16ClN5O
reactant | 4-(dimethylamino)benzaldehyde | 0.36 mmol, 54 mg | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
solvent | nitrobenzene | 8 mL | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | (1S,2S,3R,4R)-3-[6-Chloro-2-(4-dimethylamino-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 16 mg, 14% | ClC=1C(=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)N(C)C)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C22H23ClN6O
